US09084794B2
2-(4-ethyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(3-methylquinolin-7-yl)phenyl)acetamide
To a solution of 2-(4-bromo-2-fluorophenyl)-2-(4-ethyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide (212 mg, 0.5 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (126 mg, 0.5 mmol), and potassium acetate (97 mg, 0.99 mmol) in 1,4-dioxane (2.5 mL) was added PdCl2(dppf)-CH2Cl2 adduct (40 mg, 0.05 mmol). The reaction mixture was purged with nitrogen and heated at 120° C. for 4 h. The reaction mixture was cooled and 7-bromo-3-methylquinoline (110 mg, 0.5 mmol) and 2M aq K2CO3 (0.55 mL, 1.09 mmol) were added. The reaction mixture was purged with nitrogen and was heated with stirring at 100° C. for 1 h. The reaction mixture was diluted with dichloromethane (60 mL) and any salts were filtered away. The organic mixture was filtered through a plug of celite and sodium sulfate. The filtrate was treated with a small amount of Silicycle Si-thiol resin for 30 min. The mixture was filtered and concentrated in vacuo. Purification of the residue by reverse phase HPLC (10-70% acetonitrile:water with 0.1% NH4OH) provided the title product (131 mg, 51% yield). MS(ES)+ m/e 491 [M+H]+; 1H NMR (400 MHz, CD2Cl2) δ ppm 1.12 (t, J=7.20 Hz, 3 H) 1.63-1.86 (m, 3 H) 1.86-2.05 (m, 2 H) 2.29-2.41 (m, 1 H) 2.53-2.59 (m, 3 H) 2.59-2.74 (m, 2 H) 2.79 (d, J=11.62 Hz, 1 H) 3.41 (q, J=7.33 Hz, 2 H) 3.95-4.10 (m, 2 H) 4.52 (s, 1 H) 5.87 (d, J=4.04 Hz, 1 H) 7.28 (d, J=3.54 Hz, 1 H) 7.41-7.50 (m, 1 H) 7.55 (dd, J=11.37, 1.77 Hz, 1 H) 7.62 (dd, J=7.96, 1.89 Hz, 1 H) 7.82 (dd, J=8.46, 1.89 Hz, 1 H) 7.90 (d, J=8.59 Hz, 1 H) 7.97-8.05 (m, 1 H) 8.27-8.36 (m, 1 H) 8.83 (d, J=2.27 Hz, 1 H).

reactant | 2-(4-bromo-2-fluorophenyl)-2-(4-ethyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide | 0.5 mmol, 212 mg | BrC1=CC(=C(C=C1)C(C(=O)N)N1CCC2(CN(C(CO2)=O)CC)CC1)F | C18H23BrFN3O3
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.5 mmol, 126 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 0.99 mmol, 97 mg | C(C)(=O)[O-].[K+]
reactant | 7-bromo-3-methylquinoline | 0.5 mmol, 110 mg | BrC1=CC=C2C=C(C=NC2=C1)C | C10H8BrN
reactant | K2CO3 | 1.09 mmol, 2M, 0.55 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.05 mmol, 40 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 2-(4-ethyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(3-methylquinolin-7-yl)phenyl)acetamide | 131 mg, 51% yield | C(C)N1C(COC2(C1)CCN(CC2)C(C(=O)N)C2=C(C=C(C=C2)C2=CC=C1C=C(C=NC1=C2)C)F)=O | C28H31FN4O3
